US08809267B2
A mixture of 2-aminooxazole-4-carboxylic acid ethyl ester (500 mg, 3.2 mmol) and acetone (2.4 mL, 32 mmol) in THF (6 mL) was stirred at rt. BH3.SMe2 (10M in THF, 0.64 mL, 6.4 mmol) was added slowly via syringe (exotherm and gas evolution were observed). AcOH (0.36 mL, 6.4 mmol) was subsequently added in the same manner. Two additional equivalents of borane and AcOH were added 18 h later. After 3 days at rt, the reaction mixture was concentrated in vacuo. The resulting residue was dissolved in EtOAc (100 mL), washed with saturated NH4Cl solution, 0.1 M NH4OH and brine. The organic phase was dried over Na2SO4 and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel, eluting with EtOAc/hexane to give 2-isopropylamino-oxazole-4-carboxylic acid ethyl ester (0.40 g, 64% yield). LCMS found 199 [M+H]+.

reactant | 2-aminooxazole-4-carboxylic acid ethyl ester | 3.2 mmol, 500 mg | C(C)OC(=O)C=1N=C(OC1)N | C6H8N2O3
reactant | acetone | 32 mmol, 2.4 mL | CC(=O)C | C3H6O
reactant | SMe2 | 6.4 mmol, 10M, 0.64 mL | S(C)C | C2H6S
reactant | borane | B | BH3
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | AcOH | CC(=O)O | C2H4O2
solvent | AcOH | 6.4 mmol, 0.36 mL | CC(=O)O | C2H4O2
product | 2-isopropylamino-oxazole-4-carboxylic acid ethyl ester | 0.40 g, 64% yield | C(C)OC(=O)C=1N=C(OC1)NC(C)C | C9H14N2O3
